US06194426B1
2-Chloro-3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxamide is prepared according to the method described in Example 10, from 1.8 g of 2-chloro-3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile and 30 cm3 of 60% sulphuric acid. 1.3 g of 2-chloro-3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxamide is thus obtained in the form of a white powder melting at 191° C.

reactant | 2-chloro-3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 1.8 g | ClC=1C(=C2CCCCN2C1C=1C(=NC=CC1)F)C#N | C14H11ClFN3
reactant | sulphuric acid | 30 cm3 | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxamide | 1.3 g | ClC=1C(=C2CCCCN2C1C=1C(=NC=CC1)F)C(=O)N | C14H13ClFN3O
